US08471005B2
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (85 mg, 0.22 mmol), 4-Methoxymethylphenylboronic acid (72.8 mg, 0.439 mmol), Triphenylphosphine (16 mg, 0.062 mmol) and Palladium Acetate (4.9 mg, 0.022 mmol) were placed in a vial and purged with vac/N2. N,N-Dimethylformamide (4.0 mL, 52 mmol), 1,4-Dioxane (2.0 mL, 26 mmol) and 2.00 M of Sodium carbonate in Water (1.02 mL, 2.04 mmol) were added and the mixture again purged (vac/N2) before being heated to 90° C. for 3 h. The mixture was cooled, diluted with EtOAc (10 mL) and ext. w/3M HCl (3×10 mL). The aq. extr. was washed with EtOAc (10 mL), then basified with NaOH (15% w/w), giving a slurry. The slurry was extr. with DCM (3×10 mL) and the org. extr. washed with brine (10 mL), dried over sodium sulfate and conc. in vacuo to give [7-(4-Methoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (89 mg, 94%). LCMS (HPLC): 0.87 min, m/z=429 (M+H); 1H-NMR (CDCl3): 8.67 (s, 1H), 8.14 (d, 2H, J=8.2 Hz), 7.55 (d, 2H, J=8.9 Hz), 7.45 (d, 2H, J=8.2 Hz), 7.00 (d, 1H, J=4.7 Hz), 6.95 (d, 2H, J=8.9 Hz), 6.81 (d, 1H, J=4.7 Hz), 6.64 (s, 1H), 4.55 (s, 2H), 3.45 (s, 3H), 3.20 (m, 4H), 2.61 (m, 4H), 2.37 (s, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.22 mmol, 85 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 4-Methoxymethylphenylboronic acid | 0.439 mmol, 72.8 mg | COCC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | Triphenylphosphine | 0.062 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N-Dimethylformamide | 52 mmol, 4.0 mL | CN(C=O)C | C3H7NO
reactant | 1,4-Dioxane | 26 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 2.04 mmol, 1.02 mL | O | H2O
catalyst | Palladium Acetate | 0.022 mmol, 4.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [7-(4-Methoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 89 mg, 94% | COCC1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H28N6O
